US09370507B2
A solution of 4-(trifluoromethyl)-N-((2-(trifluoromethyl)benzyl)carbamothioyl) benzamide (2.0 g, 4.92 mmol), 2,6-diaminopyridine (591 mg, 5.41 mmol), and 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (EDC hydrochloride) (1.13 g, 5.91 mmol) in DMF (49 mL) was heated to 65° C. for 30 minutes, then allowed to cool to room temperature. The mixture was then diluted with ethyl acetate, washed with aqueous sodium bicarbonate solution, washed with brine, dried over sodium sulfate, and concentrated to provide the crude product. The crude product was purified by chromatography (gradient: 9:1 hexanes:EtOAc to 6:4 hexanes:EtOAc) to provide (Z)-N-(((6-aminopyridin-2-yl)amino)((2-(trifluoromethyl) benzyl)amino)methylene)-4-(trifluoromethyl)benzamide as a yellow solid (1.31 g, 55% yield).

reactant | 4-(trifluoromethyl)-N-((2-(trifluoromethyl)benzyl)carbamothioyl) benzamide | 4.92 mmol, 2.0 g | FC(C1=CC=C(C(=O)NC(NCC2=C(C=CC=C2)C(F)(F)F)=S)C=C1)(F)F | C17H12F6N2OS
reactant | 2,6-diaminopyridine | 5.41 mmol, 591 mg | NC1=NC(=CC=C1)N | C5H7N3
solvent | DMF | 49 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-N-(((6-aminopyridin-2-yl)amino)((2-(trifluoromethyl) benzyl)amino)methylene)-4-(trifluoromethyl)benzamide | 1.31 g, 55% yield | NC1=CC=CC(=N1)N\C(=N/C(C1=CC=C(C=C1)C(F)(F)F)=O)\NCC1=C(C=CC=C1)C(F)(F)F | C22H17F6N5O
